US06262045B1
10.1. Ethyl 2-(ethoxycarbonyl)-5-fluoro-α-oxo-1H-indole-3-acetate
A solution of 40 ml (313 mmol) of ethyl chloroglyoxylate and of 36 ml (313 mmol) of titanium tetrachloride in 1 l of dichloromethane is stirred for 15 min at room temperature. A solution of 50 g (241 mmol) of ethyl 5-fluoro-1H-indole-2-carboxylate in dichloromethane is added and the mixture is stirred for 2 h at room temperature. The mixture is poured into water and the organic phase is separated by settling, washed with dilute sodium hydroxide solution and dried over sodium sulphate. 31.5 g (102 mmol) of product are obtained, which product is used as is in the following stage.

reactant | ethyl chloroglyoxylate | 313 mmol, 40 ml | ClC(C(=O)OCC)=O | C4H5ClO3
reactant | ethyl 5-fluoro-1H-indole-2-carboxylate | 241 mmol, 50 g | FC=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H10FNO2
reactant | water | O | H2O
solvent | dichloromethane | 1 l | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 313 mmol, 36 ml | [Ti](Cl)(Cl)(Cl)Cl
product | Ethyl 2-(ethoxycarbonyl)-5-fluoro-α-oxo-1H-indole-3-acetate | 102 mmol, 31.5 g | C(C)OC(=O)C=1NC2=CC=C(C=C2C1C(C(=O)OCC)=O)F | C15H14FNO5
